### PR TITLE
 Usa2018p1

### PR DESCRIPTION
**Pull request by casavaca**
Golf welcomed. This is long for mainly 3 reasons:

1. `wlog h1 : a ≤ b` produces 2 goals. The side goal could ideally be solved by symmetry, but `wlog` is not powerful enough.
2. `ring_nf`, `field_simp` doesn't work on `Real (*, ^)`
3. Some tactics are missing. e.g., I'd like some tactic that turns `(h : c > d) ⊢ (a > b)` into `⊢ a = c` and `⊢ b = d`. But I don't know such a tactic, so I had to write `have a = c by ...; rw [this]; have b = d by ...; rw [this]; exact h`; which is long.

### CODE REVIEW

**Comment by dwrensha** [comment]
Thanks!

**Comment by dwrensha** [comment]
I updated `Compfiles.lean`: https://github.com/dwrensha/compfiles/commit/adff4076a9565a9f24024e38bce4dc7bf64ad519 so that this gets pickup up on website generation.

**Comment by dwrensha** [comment]
> wlog h1 : a ≤ b produces 2 goals. The side goal could ideally be solved by symmetry, but wlog is not powerful enough.

I wonder whether it would be nicer to first re-state the problem in terms of `a : Fin 3 -> R`, instead of `a b c : R`, and then use [Tuple.sort](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Fin/Tuple/Sort.html#Tuple.sort) to order the values.

File: Compfiles/Usa2018P1.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+
+
+problem usa2018_p1 (a b c : ℝ) : a > 0 → b > 0 → c > 0 → a + b + c = 4 * (a * b * c) ^ ((1 : ℝ) / 3) →
+  2 * (a * b + b * c + c * a) + 4 * (min (min (a * a) (b * b)) (c * c)) ≥ a^2 + b^2 + c^2 := by
+  -- solution 1 from
+  -- https://artofproblemsolving.com/wiki/index.php/2018_USAMO_Problems/Problem_1
+  intro ha hb hc heq
+  wlog h1 : a ≤ b with H1
+  · have swap1 : (a * b + b * c + c * a) = (b * a + a * c + c * b) := by ring 
+    have swap2 : (min (min (a * a) (b * b)) (c * c)) = (min (min (b * b) (a * a)) (c * c)) := by
```
Comment (dwrensha) [inline Compfiles/Usa2018P1.lean:61]: A possibly nicer way to say `(min (min (a * a) (b * b)) (c * c))` is `sInf {a*a, b*b, c*c}`.

**Comment by dwrensha** [comment]
> 3\. Some tactics are missing. e.g., I'd like some tactic that turns `(h : c > d) ⊢ (a > b)` into `⊢ a = c` and `⊢ b = d`. But I don't know such a tactic, so I had to write `have a = c by ...; rw [this]; have b = d by ...; rw [this]; exact h`; which is long.

What about `convert_to`? Like this:
```
example (a b c d : ℝ) (h : c > d) : (a > b) := by
  convert_to c > d
  · sorry -- a = c
  · sorry -- b = d
  · exact h
```

**Comment by dwrensha** [comment]
I simplified the proof of the `am_gm` lemma, using `Real.geom_mean_le_arith_mean2_weighted`: ae88d180f218a2d755270092bb66d3ca73cc8e6f
